US08614209B2
(2-Bromo-5-phenyl-thiophen-3-yl)-piperidin-1-yl-methanone (AA-47)
2-Bromo-5-phenyl-thiophene-3-carboxylic acid (0.99 g, 3.5 mmol) was dissolved in DMF (20 mL). DIPEA (7.0 mmol), HATU (3.5 mmol) and piperidine (3.5 mmol) were added and the solution stirred at room temperature. The reaction mixture was partitioned between ethyl acetate and 1 N hydrochloric acid. The organic solution was dried over magnesium sulfate, filtered and the solvent evaporated. The residue was purified by flash chromatography on silica, eluting with 0%-50% ethyl acetate in cyclohexane. The fractions containing the desired product were concentrated under vacuum to give a solid which was further purified by HPLC, eluting with 50%-90% acetonitrile in water (0.1% formic acid) over 30 minutes. The fractions containing the desired product were concentrated under vacuum then freeze-dried to give the title compound (95 mg). LCMS m/z 350.07 [M+H]+ R.T.=12.57 min (Analytical Method 1). 1H NMR (400 MHz, CHCl3-d): δ 7.50 (d, 1H), 7.40 (t, 2H), 7.3 (m, 1H), 7.1 (s, 1H), 3.7 (m, 2H), 3.4 (t, 2H), 1.7 (m, 4 H), 1.6 (m, 2H).

reactant | 2-Bromo-5-phenyl-thiophene-3-carboxylic acid | 3.5 mmol, 0.99 g | BrC=1SC(=CC1C(=O)O)C1=CC=CC=C1 | C11H7BrO2S
reactant | DIPEA | 7.0 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.5 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | piperidine | 3.5 mmol | N1CCCCC1 | C5H11N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2-Bromo-5-phenyl-thiophen-3-yl)-piperidin-1-yl-methanone | 95 mg | BrC=1SC(=CC1C(=O)N1CCCCC1)C1=CC=CC=C1 | C16H16BrNOS
